US05223541
Tramadol N-oxide was prepared as set forth hereinafter. Tramadol hydrochloride (0.5 mol) was converted its free base in basified water (pH>9) and then extracted with ether. The solid was then heated under a high vacuum to remove as much water as possible to yield 131.5 g of material. The material was dissolved in methanol (500 mL) and 65 g of 30% H2O2 was added. The solution was stirred for 3 hours and then an additional 65 g of the 30% H2O2 was added. The reaction was stirred for 2.5 days at room temperature. Approximately 10 mg of PtO2 (use of Pt/C is suggested for its ease of removal) on carbon was then added to the reaction mixture, and very gentle foaming took place. An additional 10 mg of PtO2 was added and the reaction mixture was stirred overnight and then filtered thru filter aid. The filtrate was concentrated under vacuum while being heated to a temperature <40° C. The residue was taken up in methylene chloride. Since the methylene chloride solution contained some colloidial platinum, the solution was diluted with ethyl acetate to 1 L and filtered through a nylon filter membrane (0.45μ pore size) to yield a clear colorless filtrate. The filtrate was concentrated to 600 mL, and then ethyl acetate was added continuously to maintain a volume of 800 mL while the solution was heated until a vapor temperature of 74° C. was reached. The solution was then cooled to room temperature. The solid was collected by filtration, washed with ethyl acetate and dried in vacuo to yield 126.6 g of the tramadol N-oxide (mp. 159.5°-160° C.).

reactant | Tramadol hydrochloride | 0.5 mol | CN(C)CC1CCCCC1(C2=CC=CC(=C2)OC)O.Cl
reactant | water | pH>9 | O | H2O
product | Tramadol N-oxide | C[N+](C)(CC1CCCCC1(C2=CC(=CC=C2)OC)O)[O-] | C16H25NO3
